US05135953
Preparation of 1-[3-chloro-4-(2,4-dimethylphenoxy)-2,5-dimethylphenyl]-3-(2,6-difluorobenzoyl)-urea
Into a solution of 4-(2,4-dimethylphenoxy)-2,5-dimethyl-3-chloroaniline (1.75 grams, 6.3 mmol) prepared in Part B in 7 milliliters of toluene, which solution was warmed to a temperature of 50° C., was added 1.14 grams (6.2 mmol) of 2,6-difluorobenzoyl isocyanate in 1.5 milliliters of toluene. The reaction mixture was heated to a temperature of 90° C. and maintained at this temperature for 0.5 hours. After cooling to room temperature, the reaction mixture was diluted with 20 milliliters of hexane and then cooled in an ice bath. A precipitate formed which was collected by filtration and washed with a cold solution of 50% hexane in toluene. After vacuum drying, a white solid (1.26 grams) which was identified as 1-[3-chloro-4-(2,4-dimethylphenoxy)-2,5-dimethylphenyl]-3-(2,6-difluorobenzoyl)urea was obtained having a melting point of 183° C.-185° C. Elemental analysis of the white solid indicated the following:

reactant | 4-(2,4-dimethylphenoxy)-2,5-dimethyl-3-chloroaniline | 6.3 mmol, 1.75 grams | CC1=C(OC2=C(C(=C(N)C=C2C)C)Cl)C=CC(=C1)C | C16H18ClNO
reactant | 2,6-difluorobenzoyl isocyanate | 6.2 mmol, 1.14 grams | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | toluene | 7 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.5 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 20 milliliters | CCCCCC | C6H14
product | 1-[3-chloro-4-(2,4-dimethylphenoxy)-2,5-dimethylphenyl]-3-(2,6-difluorobenzoyl)-urea | ClC=1C(=C(C=C(C1OC1=C(C=C(C=C1)C)C)C)NC(=O)NC(C1=C(C=CC=C1F)F)=O)C | C24H21ClF2N2O3
